US06602951B2
Preparation of an Emulsion Polymer with Dodecyl Mercaptan Regulation
888.8 g of deionized water, 40.9 g of 20% strength sodium dihexyl sulfosuccinate solution, 15 g of 10% strength acetic acid and 204.4 g of vinyl acetate were placed in a 5 liter laboratory autoclave, the mixture was heated to 75° C. while stirring and the autoclave was pressurized with ethylene to 30 bar. This pressure was maintained during the entire time over which the monomers were metered in. When temperature equilibrium had been reached, the initiator feed streams, viz. a 3% strength aqueous solution of potassium peroxodisulfate and a 1.5% strength aqueous solution of sodium formaldehyde sulfoxylate, were fed in. Two minutes after commencement of the reaction, introduction of the monomer and emulsifier feed streams was started.

reactant | sodium dihexyl sulfosuccinate | S(=O)(=O)(O)C(C(=O)OCCCCCC)CC(=O)OCCCCCC.[Na]
reactant | vinyl acetate | 204.4 g | C(C)(=O)OC=C | C4H6O2
reactant | ethylene | C=C | C2H4
reactant | potassium peroxodisulfate | [O-]S(=O)(=O)OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium formaldehyde sulfoxylate | S([O-])[O-].C=O.[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 888.8 g | O | H2O
product | Dodecyl Mercaptan | C(CCCCCCCCCCC)S | C12H26S
